US04258181
9,10-Anthracenedicarboxaldehyde bis[(2-dimethylaminoethyl)hydrazone]
A suspension of 4.68 g. of anthracene-9,10-dicarboxaldehyde in 100 ml. of ethanol containing 4.13 g. of [2-(dimethylamino)ethyl]hydrazine [Elslager et al., J. Med. Chem. I, 493 (1964)] containing two drops of acetic acid is stirred and heated under reflux for two hours. The resulting solution is filtered, concentrated, allowed to cool to 45° C., diluted with petroleum ether, then allowed to cool further at 5° C. The desired product separates as an orange solid and is collected by filtration.

reactant | anthracene-9,10-dicarboxaldehyde | C1=CC=CC2=C(C3=CC=CC=C3C(=C12)C=O)C=O | C16H10O2
reactant | [2-(dimethylamino)ethyl]hydrazine | CN(CCNN)C | C4H13N3
catalyst | acetic acid | two drops | C(C)(=O)O | C2H4O2
solvent | ethanol | 4.13 g | C(C)O | C2H6O
product | 9,10-Anthracenedicarboxaldehyde bis[(2-dimethylaminoethyl)hydrazone] | CN(CCNN=CC=1C2=CC=CC=C2C(=C2C=CC=CC12)C=NNCCN(C)C)C | C24H32N6
